US07371748B2
N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-2-pyrrolidin-1-yl-isonicotinamide
N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-bromo-isonicotinamide and pyrrolidine were reacted as described for 2-(2-methoxy-ethylamino)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide in WO03/043636. Usual workup, preparative reversed-phase HPLC and final dry-freezing afforded the title compound as light brown solid. MS: m/e=455(M+H+).

reactant | N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-bromo-isonicotinamide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(C2=C(C=NC=C2)Br)=O)OC | C19H18BrN3O4S
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 2-(2-methoxy-ethylamino)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | COCCNC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C21H25N5O4S
product | N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-2-pyrrolidin-1-yl-isonicotinamide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)N2CCCC2)=O)OC | C23H26N4O4S
